US09062028B2
3-(4-((3-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonyl)piperazin-1-yl)-3-oxopropanoic acid
Example 128 was prepared using a procedure analogous to Example 126 except that Example 1 was replaced with 3-methoxy-3-oxopropanoic acid and methyl 2-aminoacetate hydrochloride was replaced with 3-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyl piperazine-1-carboxylate. LCMS, [M+H]+=628.3. 1H NMR (400 MHz, MeOD) δ 7.54-7.42 (m, 2H), 7.41-7.31 (m, 2H), 7.30-7.14 (m, 3H), 7.06 (t, J=7.9 Hz, 1H), 6.79 (d, J=7.5 Hz, 1H), 6.75 (d, J=8.1 Hz, 1H), 5.25 (s, 2H), 3.97 (br, s, 2H), 3.83 (t, J=7.0 Hz, 2H), 3.74-3.55 (m, 8H), 2.90 (t, J=6.9 Hz, 2H), 2.46 (br. s, 2H), 2.31-2.16 (m, 5H), 1.91 (s, 3H), 1.85 (dt, J=13.3, 6.8 Hz, 2H), 1.37 (s, 2H). HPLC-1: Rt=10.8 min, purity=95.0%; HPLC-2: Rt=10.9 min, purity=93.1%.

reactant | 3-methoxy-3-oxopropanoic acid | COC(CC(=O)O)=O | C4H6O4
reactant | methyl 2-aminoacetate hydrochloride | Cl.NCC(=O)OC
reactant | 3-(1-(4-(2,3-dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OCC1=CC(=CC=C1)C1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C33H39N3O4
product | 3-(4-((3-(1-(4-(2,3-Dimethylphenoxy)butanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonyl)piperazin-1-yl)-3-oxopropanoic acid | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)C=2C=C(COC(=O)N3CCN(CC3)C(CC(=O)O)=O)C=CC2)C=CC=C1C | C36H41N3O7
